US04999352
40 ml of 1.5 molar n-butyllithium/hexane solution were added dropwise to a solution of 4.75 g (30 mmol) of 1-benzylimidazole and 3.49 g (30 mmol) of N,N,N',N'-tetramethylethylenediamine (TMED(A) in 60 ml of absolute THF at -70° C. The mixture was stirred at -70° C. to -78° C. for a further 30 minutes, a solution of 3.74 g of 90% purity (30 mmol) 2,2-dimethyl-4-pentenaldehyde in 38 ml of absolute THF was then added dropwise at about -70° C. over 25 minutes, and the mixture was stirred at about -70° C. for a further 20 minutes and allowed to warm to room temperature over about 2 hours. 350 ml of water were then added at 0°-8° C., the mixture was stirred for a further 30 minutes while cooling in an ice bath, and the phases were subsequently separated and the aqueous solution was extracted repeatedly with ether. The combined organic solutions were further worked up as described in Example 1. The extract residue (8.4 g) was chromatographed, eluting with CH2Cl2 and CH2Cl2 /C2H5OH mixtures with an increasing C2H5OH content (to a maximum of 2% by volume) on a silica gel S/CH2Cl2 column (2.8 cm, height 48 cm). After elution of 4.8 g preliminary fractions, 3.5 g of product were eluted in which the compound desired was contained. This product (3.5 g) was again chromatographed in the same fashion as described above on a silica gel S/CH2Cl2 column (φ 2.0 cm, height 60 cm), during which the composition of the fractions eluted was checked by thinlayer chromatography (TLC). After elution of 0.35 g preliminary fractions, 4 fractions were eluted (with CH2Cl2 /C2H5OH 99.6:0.4- 99.5:0.5 ) which contained the compound desired in virtually pure form. These fractions were combined and evaporated in a high vacuum at a bath temperature of 65° C. until the weight remained constant. 0.62 g (≅7.6% yield) of 3,3-dimethyl-1-(1-imidazolyl)-1-phenyl-5-hexen-2-ol was thus obtained as a viscous, colorless oil; the 1H NMR spectrum confirmed the structure of this compound.

reactant | n-butyllithium hexane | 1.5 molar, 40 ml | C(CCC)[Li].CCCCCC
reactant | 1-benzylimidazole | 30 mmol, 4.75 g | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
reactant | N,N,N',N'-tetramethylethylenediamine | 30 mmol, 3.49 g | CN(CCN(C)C)C | C6H16N2
reactant | 2,2-dimethyl-4-pentenaldehyde | 30 mmol | CC(C=O)(CC=C)C | C7H12O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 38 ml | C1CCOC1 | C4H8O
solvent | water | 350 ml | O | H2O
product | 3,3-dimethyl-1-(1-imidazolyl)-1-phenyl-5-hexen-2-ol | 0.62 g, 7.6% yield | CC(C(C(C1=CC=CC=C1)N1C=NC=C1)O)(CC=C)C | C17H22N2O
